US06413974B1
2-Chloro-6-(propylamino)-9-cyclopentylpurine is prepared from 2,6-dichloro-9-cyclopentylpurine, n-propylamine, and triethylamine essentially as described above in Example 1, Scheme A, step b.

reactant | 2,6-dichloro-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)Cl | C10H10Cl2N4
reactant | n-propylamine | C(CC)N | C3H9N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-Chloro-6-(propylamino)-9-cyclopentylpurine | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)NCCC | C13H18ClN5
